US07855194B2
Step 2: 4-(5-Cyano-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.80 mmol, 1.0 equiv), copper(I) cyanide (0.38 g, 4.20 mmol, 1.5 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.58 g, 0.56 mmol, 0.2 equiv) and 1,1′-bis(diphenylphosphino)ferrocene (0.31 g, 0.56 mmol, 0.2 equiv) in DMAc (8 mL) was heated by microwave irradiation to 180° C. for 30 min. The organic phase was concentrated under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.20 g (23%) of the title compound. MS (ISP): 304.4 [M+H]+.

reactant | 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.80 mmol, 1.00 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)Br | C14H21BrN4O2
reactant | copper(I) cyanide | 4.20 mmol, 0.38 g, 1.5 equiv | [Cu]C#N
solvent | DMAc | 8 mL | CC(=O)N(C)C | C4H9NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.56 mmol, 0.58 g, 0.2 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.56 mmol, 0.31 g, 0.2 equiv | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(5-Cyano-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C#N | C15H21N5O2
